US07842688B2
b) Benzyl 4-[4-(1-benzoxazol-2-ylazetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
A solution of 0.382 g of benzyl 4-[4-(azetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 10 ml of chloroform is admixed at 0-5° C. with 0.156 ml of 2-chlorobenzoxazole. The reaction solution is stirred at room temperature over 20 hours and subsequently poured onto an ice-water mixture. The reaction mixture is extracted with ethyl acetate (2×50 ml) and the combined organic phases are washed with 50 ml of brine, dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (2:1 EtOAc-heptane); Rt=4.99.

reactant | benzyl 4-[4-(azetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.382 g | N1CC(C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C35H41N3O7
reactant | 2-chlorobenzoxazole | 0.156 ml | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Benzyl 4-[4-(1-benzoxazol-2-ylazetidin-3-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | O1C(=NC2=C1C=CC=C2)N2CC(C2)OC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC1=C(N(C(CO1)=O)CCCOC)C2 | C42H44N4O8
